US08222263B2
A mixture of 4-cyclohexylquinazolin-2(1H)-one (500 mg, 2.2 mmol) and phosphorous oxychloride (10 mL, 111 mmol) was heated to reflux for 1 h. The volatiles were removed under reduced pressure, and then the residue was treated with ice water and extracted with ethyl acetate. The combined organic extracts were washed with saturated sodium chloride and dried over sodium sulfate. The solvent was removed on a rotary evaporator, and to this residue was added 4-aminobenzoic acid (300 mg, 2.2 mmol), triethylamine (435 μL, 3.0 mmol) and n-butanol (5 mL). This mixture was heated to 140° C. for 25 min. The mixture was cooled to rt and triturated with ether. The residual solid was collected via vacuum filtration, washed with ether and dried to afford 4-(4-cyclohexylquinazolin-2-ylamino)benzoic acid (370 mg, 48%) as an off white solid.

reactant | 4-cyclohexylquinazolin-2(1H)-one | 2.2 mmol, 500 mg | C1(CCCCC1)C1=NC(NC2=CC=CC=C12)=O | C14H16N2O
reactant | phosphorous oxychloride | 111 mmol, 10 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 4-aminobenzoic acid | 2.2 mmol, 300 mg | NC1=CC=C(C(=O)O)C=C1 | C7H7NO2
reactant | triethylamine | 3.0 mmol, 435 μL | C(C)N(CC)CC | C6H15N
solvent | n-butanol | 5 mL | C(CCC)O | C4H10O
product | 4-(4-cyclohexylquinazolin-2-ylamino)benzoic acid | 370 mg, 48% | C1(CCCCC1)C1=NC(=NC2=CC=CC=C12)NC1=CC=C(C(=O)O)C=C1 | C21H21N3O2
